US08629168B2
c) 7-Bromo-benzooxazole-2-thiol
5 g (26.6 mmol) 2-amino-6-bromo-phenol are dissolved in 20 ml EtOH and 6.52 g (39.9 mmol) potassium ethyl xanthogenate are added. This mixture is stirred for 6 h at reflux temperature. After cooling to room temperature, the reaction mixture is concentrated in vacuo and 50 ml water are added. With the addition of acetic acid, a pH of 5 is adjusted. The product starts to crystallize and is filtered off, washed 2× with water and dried to afford the title compound.

reactant | 2-amino-6-bromo-phenol | 26.6 mmol, 5 g | NC1=C(C(=CC=C1)Br)O | C6H6BrNO
reactant | potassium ethyl xanthogenate | 39.9 mmol, 6.52 g | CCOC(=S)[S-].[K+]
solvent | EtOH | 20 ml | CCO | C2H6O
product | 7-Bromo-benzooxazole-2-thiol | BrC1=CC=CC=2N=C(OC21)S | C7H4BrNOS
